US04032525
A solution of 108 g. of 3-chloromethyl-4-(4-methyl-phenoxy)-toluene in 70 ml. of dimethylsulfoxide is added dropwise at 20°-25° C. to a suspension of 23 g. of sodium cyanide in 35 ml. of dimethylsulfoxide. The mixture is subsequently stirred for 4 hours at 36° C., then diluted with 1 liter of water and extracted three times with benzene. The benzene extracts are washed three times with water, then dried over sodium sulfate and evaporated in vacuo, and there is obtained crude 2-(4-methyl-phenoxy)-5-methyl-phenylacetonitrile as a brown oil.

reactant | 3-chloromethyl-4-(4-methyl-phenoxy)-toluene | ClCC=1C=C(C=CC1OC1=CC=C(C=C1)C)C | C15H15ClO
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | 1 liter | O | H2O
product | 2-(4-methyl-phenoxy)-5-methyl-phenylacetonitrile | CC1=CC=C(OC2=C(C=C(C=C2)C)CC#N)C=C1 | C16H15NO
